US08835428B2
Step 3: (S)-3-Methyl-2-({4-phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-butyric acid methyl ester
The title compound was prepared from 4-phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid and (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride using the procedure as set forth in Example 5 and was obtained in 76.5% yield. 1H NMR (DMSO-d6) δ: 0.79 (m, 6H), 2.01 (m, 1H), 4.30 (m, 1H), 6.96 (t, 1H), 7.27 (t, 2H), 7.44 (d, 2H), 7.53 (m, 3H), 7.56 (d, 2H), 7.67 (d, 2H), 7:81 (m, 2H), 8.72 (s, 1H), 8.93 (s, 1H), 9.25 (d, 1H); Mass (ES+), 513 (M++1).

reactant | 4-phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid | C1(=CC=CC=C1)C=1C(=NOC1C(=O)O)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C23H17N3O4
reactant | (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride | Cl.COC([C@H](C(C)C)N)=O
product | (S)-3-Methyl-2-({4-phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-butyric acid methyl ester | 76.5% yield | COC([C@H](C(C)C)NC(=O)C1=C(C(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)C1=CC=CC=C1)=O | C29H28N4O5
